US07893088B2
A mixture of 1-chloro-6-methoxy-7-methyl-isoquinoline (9 g, 43.48 mol), phenol (16.3 g), potassium hydroxide (9.45 g) and xylene (100 ml) was refluxed for 4 days. The reaction mixture was poured out into aqueous sodium hydroxide (4 M) and the xylene layer separated. The aqueous layer was extracted twice with toluene. The combined organic layers were dried (Na2SO4) and concentrated in vacuo to give a residue. The residue was purified by flash chromatography using dichloromethane gave 6-methoxy-7-methyl-1-phenoxyisoquinoline (9 g, 33.96 mmol).

reactant | 1-chloro-6-methoxy-7-methyl-isoquinoline | 43.48 mol, 9 g | ClC1=NC=CC2=CC(=C(C=C12)C)OC | C11H10ClNO
reactant | phenol | 16.3 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 9.45 g | [OH-].[K+]
reactant | sodium hydroxide | 4 M | [OH-].[Na+]
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-methoxy-7-methyl-1-phenoxyisoquinoline | 33.96 mmol, 9 g | COC=1C=C2C=CN=C(C2=CC1C)OC1=CC=CC=C1 | C17H15NO2
